US05025031
Sulfamic acid 2-(4-hydroxyphenoxy)ethyl ester
To a solution of 25.8 g (0.08 mole) of sulfamic acid 2-[4-(phenylmethoxy)phenoxy]ethyl ester in 150 ml of tetrahydrofuran was added 0.5 teaspoon of 10% palladium on carbon catalyst and the mixture was hydrogenated in a Parr bottle at 40° C. overnight. The catalyst was removed and a fresh 0.5 teaspoon of 10% palladium on carbon catalyst was added and the mixture was hydrogenated at 40° C. for 3 hr whereby hydrogen uptake ceased. The catalyst was removed by filtration through Celite® and the filtrate was evaporated under reduced pressure to give a viscous oil that solidified upon standing. The solid was recrystallized from ethyl acetate-chloroform to yield 18.0 g (97%) of a shiny, white solid, mp 92°-93° C.

reactant | sulfamic acid 2-[4-(phenylmethoxy)phenoxy]ethyl ester | 0.08 mole, 25.8 g | C1(=CC=CC=C1)COC1=CC=C(OCCOS(N)(=O)=O)C=C1 | C15H17NO5S
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 0.5 teaspoon | [Pd] | Pd
product | Sulfamic acid 2-(4-hydroxyphenoxy)ethyl ester | OC1=CC=C(OCCOS(N)(=O)=O)C=C1 | C8H11NO5S
